US04120852
(c) BOC-D-Cys(MBzl)-NH2
5 g of BOC-D-Cys(MBzl)-OH are dissolved in 60 cc of dry tetrahydrofuran, the solution is cooled to -15°, 1.85 cc of N-ethylmorpholine are added, and then 1.92 cc of chloroformic acid isobutyl ester are added, and the mixture is stirred for 10 minutes. Dry ammonia gas is subsequently passed through the solution at -15° while stirring, stirring is continued for 2 hours, whereby the temperature rises to room temperature. The reaction mixture is diluted with approximately 800 cc of ethyl acetate, is washed with water, and the organic phase is dried over sodium sulphate. Concentration, filtration, washing with ethyl acetate/ether and drying are effected, and the title compound is obtained. M.P. 140°; [α]D20 = +26° in dimethyl formamide.

reactant | BOC-D-Cys(MBzl)-OH | 5 g | N([C@H](CSCC1=CC=C(C)C=C1)C(=O)O)C(=O)OC(C)(C)C | C16H23NO4S
reactant | N-ethylmorpholine | 1.85 cc | C(C)N1CCOCC1 | C6H13NO
reactant | chloroformic acid isobutyl ester | 1.92 cc | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 60 cc | O1CCCC1 | C4H8O
solvent | ethyl acetate | approximately 800 cc | C(C)(=O)OCC | C4H8O2
product | BOC-D-Cys(MBzl)-NH2 | N([C@H](CSCC1=CC=C(C)C=C1)C(=O)N)C(=O)OC(C)(C)C | C16H24N2O3S
